US05925596
A solution of 1.85 g (4.5 mmol) of N-tert-butyl-5-(N-methyl-N-methanesulfonylaminomethyl)-2-methanesulfonylbenzenesulfonamide in 20 ml of trifluoroacetic acid is stirred at room temperature for 8 h. The mixture is evaporated to dryness and then coevaporated with toluene, and the residue obtained is crystallized from ethyl acetate/diisopropyl ether. 1.32 g (83%) of 5-(N-methyl-N-methanesulfonylaminomethyl)-2-methanesulfonylbenzenesulfonamide of melting point 165-169° C. are obtained.

reactant | N-tert-butyl-5-(N-methyl-N-methanesulfonylaminomethyl)-2-methanesulfonylbenzenesulfonamide | 4.5 mmol, 1.85 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)CN(S(=O)(=O)C)C)S(=O)(=O)C | C14H24N2O6S3
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(N-methyl-N-methanesulfonylaminomethyl)-2-methanesulfonylbenzenesulfonamide | 1.32 g, 83% | CN(S(=O)(=O)C)CC=1C=CC(=C(C1)S(=O)(=O)N)S(=O)(=O)C | C10H16N2O6S3
